US07452909B2
rac-2-Methyl-4-[2-methyl-1-(1-phenyl-ethyl)-1H-imidazol-4-ylethynyl]-pyridine
The title compound, MS: m/e=302.2 (M+H30), was prepared in accordance with the general method of example 1 from 2-methyl-4-(2-methyl-1H-imidazol-4-ylethynyl)-pyridine and (1-bromoethyl)benzene.

reactant | 2-methyl-4-(2-methyl-1H-imidazol-4-ylethynyl)-pyridine | CC1=NC=CC(=C1)C#CC=1N=C(NC1)C | C12H11N3
reactant | (1-bromoethyl)benzene | BrC(C)C1=CC=CC=C1 | C8H9Br
product | rac-2-Methyl-4-[2-methyl-1-(1-phenyl-ethyl)-1H-imidazol-4-ylethynyl]-pyridine | CC1=NC=CC(=C1)C#CC=1N=C(N(C1)C(C)C1=CC=CC=C1)C | C20H19N3
